US06890942B2
4-(1-Cyclopropylmethyl-cyclopropanesulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide was treated with 1-cyclopropylmethyl-cyclopropanesulfonic acid amide as described in the preparation of compound 1 to yield the title compound. MS (M−H) calcd for C19H22FN2O6S: 425.1. Found: 425.0. 1H NMR (500 MHz, CDCl3) δ: 0.12 (m, 2), 0.50 (m, 2), 0.70 (m, 1), 1.14 (m, 2), 1.75 (m, 2), 1.88 (m, 2), 3.69 (s, 3), 4.79 (s, 2), 6.54 (s, 1), 7.03 (m, 2), 7.30 (m, 2), 8.83 (s, 1). Anal calcd for C19H23FN2O6S; C, 53.51; H, 5.43; N, 6.56. Found: C, 53.43; H, 5.64; N, 6.51.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | 1-cyclopropylmethyl-cyclopropanesulfonic acid amide | C1(CC1)CC1(CC1)S(=O)(=O)N | C7H13NO2S
product | 4-(1-Cyclopropylmethyl-cyclopropanesulfonylamino)-3-hydroxy-4-oxo-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | FC1=CC=C(CN(C(C=C(C(=O)NS(=O)(=O)C2(CC2)CC2CC2)O)=O)OC)C=C1 | C19H23FN2O6S
